* AD605an SPICE model
* Description: Amplifier
* Generic Desc: Bipolar, VGA Dual
* Developed by: SMR
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (01/1998)
* Copyright 1998, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*
* node assignments
*               vgn vref vocm +dsx -dsx fdbk vout v+ v-
.SUBCKT ad605an  1  150  256   101  102  251  30  99 50



* vref inverter



vinv   202 0 1

einv   201 0 202 203 10e6

evmult 203 0 poly(2) 201 0 150 0 0 0 0 0 1

 

* vocm input



rvocm1 99 256 200k

rvocm2 256 0 200k

eocm 100 0 256 0 1



* R/1.5R attenuation ladder



ra1  101 103 96 

ra2  103 100 144

ra3  100 104 144

ra4  102 104 96

ra5  103 105 96 

ra6  105 100 144

ra7  100 106 144

ra8  104 106 96

ra9  105 107 96

ra10 107 100 144

ra11 100 108 144

ra12 106 108 96

ra13 107 109 96

ra14 109 100 144

ra15 100 110 144

ra16 108 110 96

ra17 109 111 96

ra18 111 100 144

ra19 100 112 144

ra20 110 112 96

ra21 111 113 96

ra22 113 100 144

ra23 100 114 144

ra24 112 114 96

ra25 113 115 96

ra26 115 100 144

ra27 100 116 144

ra28 114 116 96

ra29 115 100 175

ra30 100 116 175



* input tanh pairs with gain controlled

* by current steering ladder



q11 21 101 22 qn1  

q12 20 102 22 qn1 4

q13 21 101 42 qn1 4

q14 20 102 42 qn1

f22a 22 50 vl2 4

f22b 42 50 vl2 4

q21 21 103 23 qn1

q22 20 104 23 qn1 4

q23 21 103 43 qn1 4

q24 20 104 43 qn1

f23a 23 50 vl3 4

f23b 43 50 vl3 4

q31 21 105 24 qn1

q32 20 106 24 qn1 4

q33 21 105 44 qn1 4

q34 20 106 44 qn1

f24a 24 50 vl4 4

f24b 44 50 vl4 4

q41 21 107 25 qn1

q42 20 108 25 qn1 4

q43 21 107 45 qn1 4

q44 20 108 45 qn1

f25a 25 50 vl5 4

f25b 45 50 vl5 4

q51 21 109 26 qn1

q52 20 110 26 qn1 4

q53 21 109 46 qn1 4

q54 20 110 46 qn1

f26a 26 50 vl6 4

f26b 46 50 vl6 4

q61 21 111 27 qn1

q62 20 112 27 qn1 4

q63 21 111 47 qn1 4

q64 20 112 47 qn1

f27a 27 50 vl7 4

f27b 47 50 vl7 4

q71 21 113 28 qn1

q72 20 114 28 qn1 4

q73 21 113 48 qn1 4

q74 20 114 48 qn1

f28a 28 50 vl8 4

f28b 48 50 vl8 4

q81 21 115 29 qn1

q82 20 116 29 qn1 4

q75 21 115 49 qn1 4

q76 20 116 49 qn1

f29a 29 50 vl9 4

f29b 49 50 vl9 4



* gaussian transistor current steering ladder



ib1 2 50 495e-6

ib2 9 50 495e-6



ggn 9 2 poly(2) 201 0 1 0 -430e-6 0 0 0 680e-6 



i1 19 50 350e-6



i2 0 2 100e-6

i3 0 3 51e-6

i4 0 4 51e-6

i5 0 5 51e-6

i6 0 6 51e-6

i7 0 7 51e-6

i8 0 8 51e-6

i9 0 9 100e-6



rl1 99 2 8k

rl2 99 9 8k



rl3 2 3 1.8k

rl4 3 4 1.8k

rl5 4 5 1.8k

rl6 5 6 1.8k

rl7 6 7 1.8k

rl8 7 8 1.8k

rl9 8 9 1.8k



ql2 32 2 19 qn1 

ql3 33 3 19 qn1

ql4 34 4 19 qn1

ql5 35 5 19 qn1

ql6 36 6 19 qn1

ql7 37 7 19 qn1

ql8 38 8 19 qn1

ql9 39 9 19 qn1



vl2 99 32 0

vl3 99 33 0

vl4 99 34 0

vl5 99 35 0

vl6 99 36 0

vl7 99 37 0

vl8 99 38 0

vl9 99 39 0



* feedback gm stage



q01 921 900 302 qn1  

q02 920 60  302 qn1 4

q03 921 900 303 qn1 4

q04 920 60  303 qn1

io1a 302 50 1.068e-3 

io2a 303 50 1.068e-3



* distributed and feedback gain stages are summed together



vgain1 99 20 0

vgain2 99 21 0

vgain3 99 920 0

vgain4 99 921 0



* and added to create fgm1 stage 



fgm1 99 31 vgain2 0.94 

fgm2 99 31 vgain1 -0.94 

fgm3 99 31 vgain4 1

fgm4 99 31 vgain3 -1



* second gm stage + output stage



cgm 31 100 2.45e-12

rgm 31 100 92k

dbuf1 31 52 dg

dbuf2 53 31 dg

vcl1 99 52 1.55

vcl2 53 50 1.55



gbuf 100 51 31 100 1e-2



rbuf 100 51 1e2

dcl1 51 54 dg 

dcl2 55 51 dg

vcl3 30 54 0.716

vcl4 55 30 0.716

gout1 30 99 99 51 0.5

gout2 30 50 50 51 0.5

rout1 30 99 2

rout2 30 50 2



rfb1 30 251 3.36k

rfb2 251 60 820

rfb3 60 100 20

rfb2a 900 100 1e-3



.model dg d()

.model dn d(af=1 kf=1e-8)

.model qn1 npn(bf=1e6)

.ends ad605an





